US05248775
A solution of 1.16 g of diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop-2-en-2-yl}benzoyl]glutamate and 174 mg (20%) of amorphous platinum (IV) oxide in 150 ml of glacial acetic acid is hydrogenated for 10 hours at 50 psi. The reaction mixture is diluted with 50 ml of methanol and filtered through Celite. The filtrate is concentrated and diluted with ethyl acetate. The solid which forms after cooling for 15 hour is collected by filtration, washed with cold ethyl acetate and dried to give diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop--2-yl}benzoyl]glutamate.

reactant | diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop-2-en-2-yl}benzoyl]glutamate | 1.16 g | O1C(CCCC1)OCC(=CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O)C2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2 | C35H45N5O9
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum (IV) oxide | 174 mg | [Pt](=O)=O
product | diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop--2-yl}benzoyl]glutamate | O1C(CCCC1)OCC(CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O)C2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2 | C35H47N5O9
